US04136188
A mixture of 0.50 g of 2-benzhydrylimino-1,3-diazacycloheptane and 0.237 g of acetic anhydride was reacted in substantially the same procedure as in Example 40 to give 1-acetyl-2-benzhydrylimino-1,3-diazacycloheptane having a melting point of 250° to 252° C.

reactant | 2-benzhydrylimino-1,3-diazacycloheptane | 0.50 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N=C1NCCCCN1 | C18H21N3
reactant | acetic anhydride | 0.237 g | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-2-benzhydrylimino-1,3-diazacycloheptane | C(C)(=O)N1C(NCCCC1)=NC(C1=CC=CC=C1)C1=CC=CC=C1 | C20H23N3O
